US07846956B2
5.61 g of t-butylacetylene and 9.09 g of ethyl (2E)-chloro(hydroxyimino)acetate were dissolved in 70 ml of tetrahydrofuran, and 11.4 ml of triethylamine was then added dropwise at 0° C. over 30 minutes. The mixture was stirred at room temperature overnight. After aqueous saturated sodium chloride was added, the reaction mixture was separated into layers. The aqueous layer was extracted with methyl-t-butyl ether. The organic layers were combined, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.83 g of ethyl 5-t-butyl-isoxazole-3-carboxylate.

reactant | t-butylacetylene | 5.61 g | C(C)(C)(C)C#C | C6H10
reactant | ethyl (2E)-chloro(hydroxyimino)acetate | 9.09 g | Cl/C(/C(=O)OCC)=N/O | C4H6ClNO3
reactant | triethylamine | 11.4 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | ethyl 5-t-butyl-isoxazole-3-carboxylate | 1.83 g | C(C)(C)(C)C1=CC(=NO1)C(=O)OCC | C10H15NO3
